US07459554B2
8-Amino-1-(3-Benzyloxy-2-fluorophenyl)-3-cyclobutylimidazo[1,5-a]pyrazine:
(3-Benzyloxy-2-fluorophenyl) (3-chloropyrazin-2-yl) aminomethane: A mixture of 2-[(3-benzyloxy-2-fluoro-phenyl)-(3-chloro-pyrazin-2-yl)-methyl]-isoindole-1,3-dione (1.63 g, 3.45 mmole) and hydrazine (0.270 mL, 8.6 mmole) in ethanol (30 mL) and methylene chloride (10 mL) was stirred at room temperature under nitrogen. After 65 h, separated phthalazine-1,4-dione solid was filtered, and the solid cake was washed with methylene chloride. The filtrate was concentrated in vacuo to obtain red oil comprising the desired title compound, which solidified on standing (1.0 g, 85%).

reactant | (3-Benzyloxy-2-fluorophenyl) (3-chloropyrazin-2-yl) aminomethane | C(C1=CC=CC=C1)OC=1C(=C(C=CC1)CNC1=NC=CN=C1Cl)F | C18H15ClFN3O
reactant | 2-[(3-benzyloxy-2-fluoro-phenyl)-(3-chloro-pyrazin-2-yl)-methyl]-isoindole-1,3-dione | 3.45 mmole, 1.63 g | C(C1=CC=CC=C1)OC=1C(=C(C=CC1)C(N1C(C2=CC=CC=C2C1=O)=O)C1=NC=CN=C1Cl)F | C26H17ClFN3O3
reactant | hydrazine | 8.6 mmole, 0.270 mL | NN | H4N2
solvent | ethanol | 30 mL | C(C)O | C2H6O
solvent | methylene chloride | 10 mL | C(Cl)Cl | CH2Cl2
product | 8-Amino-1-(3-Benzyloxy-2-fluorophenyl)-3-cyclobutylimidazo[1,5-a]pyrazine | NC=1C=2N(C=CN1)C(=NC2C2=C(C(=CC=C2)OCC2=CC=CC=C2)F)C2CCC2 | C23H21FN4O
